US04888439
N-(19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoyl)piperadine
Starting materials: 19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoic acid and piperidine.

reactant | 19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoic acid | C(C)OC(=O)C=C(CCC=C(CCC=C(CCC=C(CCC=C(C(=O)O)C)C)C)C)C | C27H42O4
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-(19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoyl)piperadine | C(C)OC(=O)C=C(CCC=C(CCC=C(CCC=C(CCC=C(C(=O)N1CCCCC1)C)C)C)C)C | C32H51NO3
